US05281715
To a solution of 3-amino-2,4-dimethylpyridine (25.0 g, 0.21 mol) in 10% sulfuric acid (405 mL) cooled to 0° C. by dry ice in acetone with stirring, a solution of sodium nitrite (16.2 g, 0.23 mol) in 160 mL of water was added dropwise at 0.5° C. over a period of 7 min. The solution was maintained at 0° C. for an additional 15 min and then heated in a steam-bath for 15 min. After cooling to room temperature, the solution was neutralized with K2CO3 to pH 7. The product was then extracted with chloroform (3×500 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed in vacuo. The product was recrystallized from acetone, and the mother liquid was purified by silica gel column chromatography (EtOAc) to afford an additional amount of the pure product, 3-hydroxy-2,4-dimethylpyridine. The total yield was 12.7 g (51 %) as a colorless solid: mp 105°-106° C. (lit. 99°-101° C.); 1H NMR (90 MHz, CDCl3) δ 2.25 (s, 3H, 4-CH3), 2.50 (s, 3H, 2-CH3), 6.97 (d, 1H, 5-H, J5,6 =4.5 Hz), 7.95 (d, 1H, 6-H, J5,6 =4.5 Hz), 11.20 (s, 1H, 5-OH, D2O exchangeable).

reactant | 3-amino-2,4-dimethylpyridine | 0.21 mol, 25.0 g | NC=1C(=NC=CC1C)C | C7H10N2
reactant | dry ice | C(=O)=O | CO2
reactant | sodium nitrite | 0.23 mol, 16.2 g | N(=O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | sulfuric acid | 405 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 160 mL | O | H2O
product | 3-hydroxy-2,4-dimethylpyridine | OC=1C(=NC=CC1C)C | C7H9NO
